US08048899B2
To a solution of 166 g (0.63 mol) of 2-methyl-2-(tetrahydro-pyran-4-sulfonyl)-propionic acid ethyl ester in THF/water (4/1, 1.66 L) are added 50.5 g (1.26 mol) of NaOH pellets in portions over 20 min. The reaction is stirred at room temperature for 2.5 d. The organic solvent is removed under reduced pressure and the aqueous residue is diluted with water (2 L) and washed with DCM (2 L). The aqueous layer is acidified to pH 1-2 with concentrated HCl and then extracted with DCM (3×2 L). The acidic aqueous is further saturated with NaCl and extracted again with DCM (6×2 L). The combined organic extracts are concentrated under reduced pressure to give 123 g of 2-methyl-2-(tetrahydro-pyran-4-sulfonyl)-propionic acid as a white solid. Yield: 83%, ES-MS: m/z 235 [M−H]

reactant | 2-methyl-2-(tetrahydro-pyran-4-sulfonyl)-propionic acid ethyl ester | 0.63 mol, 166 g | C(C)OC(C(C)(S(=O)(=O)C1CCOCC1)C)=O | C11H20O5S
reactant | NaOH | 1.26 mol, 50.5 g | [OH-].[Na+]
solvent | 1,4-dioxane water | 1.66 L | O1CCOCC1.O
product | 2-methyl-2-(tetrahydro-pyran-4-sulfonyl)-propionic acid | 123 g, Yield: 83% | CC(C(=O)O)(C)S(=O)(=O)C1CCOCC1 | C9H16O5S
